US07521461B2
b) 2-[(4-{2-[(2-Methyl-5-phenyl-3-furoyl)amino]ethyl}phenoxy)methyl]benzoic acid
Lithium hydroxide (3.3 mg, 0.136 mmol) in water (1 ml) was added into methyl 2-[(4-{2-[(2-methyl-5-phenyl-3-furoyl)amino]ethyl}phenoxy)methyl]benzoate (32 mg, 0.068 mmol) dissolved in THF(2 ml). The mixture was then irradiated in a microwave oven (Smith Synthesizer) at 150° C. for 7 minutes and then evaporated to remove THF. The residue was acidified with 1% hydrochloric acid, pH˜4, and extracted with ethyl acetate (×2). The organic extracts were combined and washed with brine and dried with magnesium sulphate and then evaporated. Chromatography of the residue on a column (ISOLUTE® SI, 2 g/6 ml) using DCM, then MeOH/DCM (1:99 and 2:98) as eluant gave 22 mg the desired product, yield 71%.

reactant | Lithium hydroxide | 0.136 mmol, 3.3 mg | [OH-].[Li+]
reactant | methyl 2-[(4-{2-[(2-methyl-5-phenyl-3-furoyl)amino]ethyl}phenoxy)methyl]benzoate | 0.068 mmol, 32 mg | CC=1OC(=CC1C(=O)NCCC1=CC=C(OCC2=C(C(=O)OC)C=CC=C2)C=C1)C1=CC=CC=C1 | C29H27NO5
solvent | water | 1 ml | O | H2O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | 2-[(4-{2-[(2-Methyl-5-phenyl-3-furoyl)amino]ethyl}phenoxy)methyl]benzoic acid | 22 mg, yield 71% | CC=1OC(=CC1C(=O)NCCC1=CC=C(OCC2=C(C(=O)O)C=CC=C2)C=C1)C1=CC=CC=C1 | C28H25NO5
